US08865623B2
To a mixture of 2-(2-ethyl-5-iodophenyl)cyclohexane-1,3-dione (0.250 g, 0.73 mmol), 4-chloro-2-fluorophenol (0.535 g, 3.65 mmol) and cesium carbonate (0.477 g, 1.46 mmol) is added powdered 3 Å molecular sieves (0.300 g) and copper (II) trifluoromethanesulfonate (0.012 g, 0.037 mmol). After degassing with nitrogen anhydrous toluene (4 ml) is added, and the suspension is heated at 160° C. for 1 hour under microwave irradiation. The reaction mixture is acidified with 2M aqueous hydrochloric acid and extracted with dichloromethane (×2). The organic phase is separated then evaporated under reduced pressure to yield a crude product which is purified by preparative reverse-phase HPLC to afford 2-[5-(4-chloro-2-fluoro-phenoxy)-2-ethylphenyl]cyclohexane-1,3-dione.

reactant | 2-(2-ethyl-5-iodophenyl)cyclohexane-1,3-dione | 0.73 mmol, 0.250 g | C(C)C1=C(C=C(C=C1)I)C1C(CCCC1=O)=O | C14H15IO2
reactant | 4-chloro-2-fluorophenol | 3.65 mmol, 0.535 g | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
reactant | cesium carbonate | 1.46 mmol, 0.477 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper (II) trifluoromethanesulfonate | 0.037 mmol, 0.012 g | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
product | 2-[5-(4-chloro-2-fluoro-phenoxy)-2-ethylphenyl]cyclohexane-1,3-dione | ClC1=CC(=C(OC=2C=CC(=C(C2)C2C(CCCC2=O)=O)CC)C=C1)F | C20H18ClFO3
